US08859541B2
B3a) 4-chloro-6-(2-phenylethynyl)pyridin-2-amine
A mixture of 4,6-dichloropyridin-2-amine (2.0 g, 12.3 mmol), ethynylbenzene (2.51 g, 24.5 mmol), copper(I) iodide (234 mg, 1.23 mmol), Dichlorobis(triphenylphosphine)-palladium(II) (1.0 g, 1.23 mmol) and triethylamine (4.3 ml, 31 mmol) is stirred under argon atmosphere in ACN (20 ml) with THF (10 ml) for 6 h at 90° C. The mixture is diluted with water and extracted with EtOAc. The combined organic layers are dried over MgSO4, concentrated in vacuo and the product purified by NP chromatography. Yield: 1.2 g (43%). HPLC-MS: M+H=229; tR=1.96 min (*Method—2).

reactant | 4,6-dichloropyridin-2-amine | 12.3 mmol, 2.0 g | ClC1=CC(=NC(=C1)Cl)N | C5H4Cl2N2
reactant | ethynylbenzene | 24.5 mmol, 2.51 g | C(#C)C1=CC=CC=C1 | C8H6
reactant | triethylamine | 31 mmol, 4.3 ml | C(C)N(CC)CC | C6H15N
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ACN | 20 ml | C(C)#N | C2H3N
solvent | water | O | H2O
catalyst | copper(I) iodide | 1.23 mmol, 234 mg | [Cu]I
catalyst | Dichlorobis(triphenylphosphine)-palladium(II) | 1.23 mmol, 1.0 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-chloro-6-(2-phenylethynyl)pyridin-2-amine | ClC1=CC(=NC(=C1)C#CC1=CC=CC=C1)N | C13H9ClN2
